US05576335
To a solution of 3,5-di-t-butyl-4-hydroxybenzoic acid (5.0 g) in methylene chloride (20 ml) was added dicyclohexylcarbodiimide (2.17 g) and the mixture was stirred overnight at room temperature. Subsequently, triethylamine (2.1 ml), 4-dimethylaminopyridine (0.37 g) and o-phenylenediamine (1.08 g) were added and the mixture was stirred overnight at room temperature. The insolubles was filtered off and the filtrate was concentrated to dryness. The residue was purified by a silica gel column chromatography (chloroform:ethyl acetate=20:1) and crystallized from diisopropyl ether to give N-(2-aminophenyl)-3,5-di-t-butyl-4-hydroxybenzamide (1.10 g, 32%).

reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 5.0 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | dicyclohexylcarbodiimide | 2.17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | o-phenylenediamine | 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(2-aminophenyl)-3,5-di-t-butyl-4-hydroxybenzamide | 1.10 g, 32% | NC1=C(C=CC=C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C21H28N2O2
